plaintext
* SPICE Netlist for the given circuit
Vin 4 0 DC 0V
? Missing component
C1 2 2 10u
* Operational Amplifier
* Ideal Op-Amp, connections:
* Non-inverting input - node 2
* Inverting input - node 4
* Output - Vout
.subckt opamp 2 4 Vout
* No specific parameters, ideal op-amp assumed
.ends opamp
XOP 2 4 Vout opamp
* End of Netlist
